US09079866B2
N-[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]pyrrolidine-1-sulfonamide
The title compound was prepared in a manner similar to that described in Example 571 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine and N-(2-bromophenyl)pyrrolidine-1-sulfonamide MS (ESI): mass calcd. for C20H20FN5O2S, 413.13; m/z found, 414.4 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.63 (s, 2H), 7.59 (d, J=8.4, 1H), 7.50 (m, 1H), 7.39 (m, 1H), 7.32-7.29 (m, 2H), 7.24-7.22 (m, 1H), 7.22-7.15 (m, 1H), 6.87-6.79 (m, 2H), 6.36 (s, 1H), 3.37-3.26 (m, 4H), 1.94-1.83 (m, 4H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | N-(2-bromophenyl)pyrrolidine-1-sulfonamide | BrC1=C(C=CC=C1)NS(=O)(=O)N1CCCC1 | C10H13BrN2O2S
product | N-[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]pyrrolidine-1-sulfonamide | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)N1CCCC1)F | C20H20FN5O2S
